US04556672
2-Oxindole-1-carboxamide
To a solution of 194 mg (1.0 mmole) of 2-(2-ureidophenyl)acetic acid in 4 ml of trifluoroacetic acid was added 630 mg (3.0 mmole) of trifluoroacetic anhydride, and the mixture was then heated under reflux for ca. 1 hour. The reaction mixture was cooled and the solvent was removed by evaporation in vacuo. The residue was triturated under 5-8 ml of saturated sodium bicarbonate solution, and the material which remained out of solution was collected by filtration. The solid thus obtained was recrystallized from ethanol to give 61 mg of the title compound as colorless needles, m.p. 179°-180° C. (slight decomposition).

reactant | 2-(2-ureidophenyl)acetic acid | 1.0 mmole, 194 mg | N(C(=O)N)C1=C(C=CC=C1)CC(=O)O | C9H10N2O3
reactant | trifluoroacetic anhydride | 3.0 mmole, 630 mg | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | trifluoroacetic acid | 4 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2-Oxindole-1-carboxamide | 61 mg | N1(C(CC2=CC=CC=C12)=O)C(=O)N | C9H8N2O2
